US05190934
A solution of 0.73 g of sodium 3-(N-tert.-butoxycarbonylamino)-2-hydroxy-2-methyl-propyl(n-butyl)phosphinate is dissolved in 10 ml of 1.0 aqueous hydrochloric acid and the solution stirred at 20° for 16-20 hours. After this time the solution is washed with dichloromethane followed by ether and the water removed under reduced pressure at 40° to afford an oily solid. This solid is treated with n-propanol and a few grams of charcoal. Subsequent heating to reflux and filtration gives a colourless solution. Removal of the solvent in vacuo and drying of the solid in vacuo at 80° gives a pale yellow solid. Dissolution of this solid in absolute ethanol followed by treatment with propylene oxide affords a white solid. Recrystallisation from an ethanol/acetone mixture gives 3-amino-2-hydroxy-2-methyl-propyl(n-butyl)phosphinic acid of m.p. 187°-189°.

reactant | sodium 3-(N-tert.-butoxycarbonylamino)-2-hydroxy-2-methyl-propyl(n-butyl)phosphinate | 0.73 g | C(C)(C)(C)OC(=O)NCC(CP([O-])(=O)CCCC)(C)O.[Na+]
reactant | n-propanol | C(CC)O | C3H8O
reactant | charcoal | a few grams | C | CH4
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-2-hydroxy-2-methyl-propyl(n-butyl)phosphinic acid | NCC(CP(O)(=O)CCCC)(C)O | C8H20NO3P
